US07858640B2
(S)-2-[3-(2,4-dichlorobenzyl)-8-fluoro-4-methyl-2-oxo-1,2-dihydroquinolin-5-yloxy]propionic Acid Methyl Ester
A mixture of 3-(2,4-dichlorobenzyl)-8-fluoro-5-hydroxy-4-methyl-1H-quinolin-2-one (0.40 g), N,N-dimethylformamide (5.0 mL), potassium carbonate (0.17 g) and (R)-2-chloropropionic acid methyl ester (0.15 g) was stirred at 40° C. for 24 hours. The mixture was diluted with water and extracted with ethyl acetate. The combined extracts were washed saturated aqueous sodium chloride solution, dried over magnesium sulfate and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with a mixture of toluene, dichloromethane and ethyl acetate (1:1:0 to 0:1:0 to 0:10:1 by volume) to afford title compound as a cream solid, 0.21 g.

reactant | 3-(2,4-dichlorobenzyl)-8-fluoro-5-hydroxy-4-methyl-1H-quinolin-2-one | 0.40 g | ClC1=C(CC=2C(NC3=C(C=CC(=C3C2C)O)F)=O)C=CC(=C1)Cl | C17H12Cl2FNO2
reactant | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-2-chloropropionic acid methyl ester | 0.15 g | COC([C@@H](C)Cl)=O | C4H7ClO2
solvent | water | O | H2O
product | (S)-2-[3-(2,4-dichlorobenzyl)-8-fluoro-4-methyl-2-oxo-1,2-dihydroquinolin-5-yloxy]propionic Acid Methyl Ester | COC([C@H](C)OC1=C2C(=C(C(NC2=C(C=C1)F)=O)CC1=C(C=C(C=C1)Cl)Cl)C)=O | C21H18Cl2FNO4
